Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[c:3]2[n:4][cH:5][n:6][c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][c:16]([O:17][CH3:18])[c:19]([F:20])[cH:21]3)[c:22]2[nH:23][c:24]1[CH3:25])=[O:26].[CH3:27][O:28][c:29]1[cH:30][cH:31][c:32]([C:33]2=[N:34][N:35]([CH:36]3[CH2:37][CH2:38][N:39]([C:40](=[O:41])[C@H:42]([NH2:43])[CH2:44][c:45]4[cH:46][cH:47][c:48]([C:49]([CH3:50])([CH3:51])[CH3:52])[cH:53][cH:54]4)[CH2:55][CH2:56]3)[C:57](=[O:58])[C@@H:59]3[CH2:60][CH2:61][CH2:62][CH2:63][C@H:64]23)[cH:65][c:66]1[O:67][CH3:68]>>[C:1]([c:2]1[c:3]2[n:4][cH:5][n:6][c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][c:16]([O:17][CH3:18])[c:19]([F:20])[cH:21]3)[c:22]2[nH:23][c:24]1[CH3:25])(=[O:26])[NH:43][C@@H:42]([C:40]([N:39]1[CH2:38][CH2:37][CH:36]([N:35]2[N:34]=[C:33]([c:32]3[cH:31][cH:30][c:29]([O:28][CH3:27])[c:66]([O:67][CH3:68])[cH:65]3)[C@@H:64]3[C@H:59]([C:57]2=[O:58])[CH2:60][CH2:61][CH2:62][CH2:63]3)[CH2:56][CH2:55]1)=[O:41])[CH2:44][c:45]1[cH:46][cH:47][c:48]([C:49]([CH3:50])([CH3:51])[CH3:52])[cH:53][cH:54]1,[CH3:27][O:28][c:29]1[cH:30][cH:31][c:32]([C:33]2=[N:34][N:35]([CH:36]3[CH2:37][CH2:38][N:39]([C:40](=[O:41])[C@H:42]([NH2:43])[CH2:44][c:45]4[cH:46][cH:47][c:48]([C:49]([CH3:50])([CH3:51])[CH3:52])[cH:53][cH:54]4)[CH2:55][CH2:56]3)[C:57](=[O:58])[C@@H:59]3[CH2:60][CH2:61][CH2:62][CH2:63][C@H:64]23)[cH:65][c:66]1[O:67][CH3:68].[OH:101][C:1]([c:2]1[c:3]2[n:4][cH:5][n:6][c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][c:16]([O:17][CH3:18])[c:19]([F:20])[cH:21]3)[c:22]2[nH:23][c:24]1[CH3:25])=[O:26].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]2[n:4][cH:5][n:6][c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][c:16]([O:17][CH3:18])[c:19]([F:20])[cH:21]3)[c:22]2[nH:23][c:24]1[CH3:25])(=[O:26])[NH:43][C@@H:42]([C:40]([N:39]1[CH2:38][CH2:37][CH:36]([N:35]2[N:34]=[C:33]([c:32]3[cH:31][cH:30][c:29]([O:28][CH3:27])[c:66]([O:67][CH3:68])[cH:65]3)[C@@H:64]3[C@H:59]([C:57]2=[O:58])[CH2:60][CH2:61][CH2:62][CH2:63]3)[CH2:56][CH2:55]1)=[O:41])[CH2:44][c:45]1[cH:46][cH:47][c:48]([C:49]([CH3:50])([CH3:51])[CH3:52])[cH:53][cH:54]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (43, 1), ([1, 26], 26), (303, 43.1), ([43.1, 43], 43), (26, [26, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(OCc1ccccc1)[NH:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[cH:10][n:11][o:12][cH:13]2)[cH:14][cH:15]1>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[cH:10][n:11][o:12][cH:13]2)[cH:14][cH:15]1,[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[NH:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[cH:10][n:11][o:12][cH:13]2)[cH:14][cH:15]1.[BrH:301]>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8](-[c:9]2[cH:10][n:11][o:12][cH:13]2)[cH:14][cH:15]1,Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][n:2]1[n:3][c:4]([CH:5]2[CH2:6][CH2:7][N:8]([CH2:9][CH2:10][CH2:11][OH:12])[CH2:13][CH2:14]2)[c:15]2[cH:16][cH:17][c:18]([F:19])[cH:20][c:21]12.[CH3:22][O:23][c:24]1[cH:25][c:26]([N:27]=[C:28]=[O:29])[cH:30][c:31]([O:32][CH3:33])[c:34]1[O:35][CH3:36]>>[CH3:1][n:2]1[n:3][c:4]([CH:5]2[CH2:6][CH2:7][N:8]([CH2:9][CH2:10][CH2:11][O:12][C:28]([NH:27][c:26]3[cH:25][c:24]([O:23][CH3:22])[c:34]([O:35][CH3:36])[c:31]([O:32][CH3:33])[cH:30]3)=[O:29])[CH2:13][CH2:14]2)[c:15]2[cH:16][cH:17][c:18]([F:19])[cH:20][c:21]12,[CH3:1][n:2]1[n:3][c:4]([CH:5]2[CH2:6][CH2:7][N:8]([CH2:9][CH2:10][CH2:11][OH:12])[CH2:13][CH2:14]2)[c:15]2[cH:16][cH:17][c:18]([F:19])[cH:20][c:21]12.[CH3:22][O:23][c:24]1[cH:25][c:26]([N:27]=[C:28]=[O:29])[cH:30][c:31]([O:32][CH3:33])[c:34]1[O:35][CH3:36].[H-:301].[Na+].[OH2]>>[CH3:1][n:2]1[n:3][c:4]([CH:5]2[CH2:6][CH2:7][N:8]([CH2:9][CH2:10][CH2:11][O:12][C:28]([NH:27][c:26]3[cH:25][c:24]([O:23][CH3:22])[c:34]([O:35][CH3:36])[c:31]([O:32][CH3:33])[cH:30]3)=[O:29])[CH2:13][CH2:14]2)[c:15]2[cH:16][cH:17][c:18]([F:19])[cH:20][c:21]12,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 12.1), ([12.1, 12], 12), (12, 28), ([28, 29], 29), (29, [29, 28]), ([28, 27], 27)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
